US07482350B2
Step 4. Preparation of 4-chloro-2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidine
A mixture of 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidin-4-ol (760 mg, 2.0 mmol) and phosphorous oxychloride (5 mL) is heated at 80° C. under nitrogen with magnetic stirring for 2 h (until starting material is consumed as determined by LC/MS analysis). The reaction mixture is evaporated at reduced pressure, diluted with DCM (50 mL), extracted with sat. NaHCO3 (20 mL×3), dried over anhydrous sodium sulfate, filtered and evaporated to obtain a pale yellow oil. Purification by chromatography on silica gel (10-40% EtOAc/Hexanes) provides the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.08-7.25 (m, 4H), 6.88 (s, 1H), 6.82 (d, J=9 Hz, 1H), 5.28 (s, 2H), 2.91 (m, 1H), 2.74 (s, 3H), 2.21 (s, 3H), 2.14 (s, 6H), 1.28 (d, J=6.8 Hz, 6H); LC-MS found 395.4 (MH+), rt=3.33 min, Method 3.

reactant | 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidin-4-ol | 2.0 mmol, 760 mg | CC1=C(C(=CC=C1)C)C1=NC(=C(C(=N1)O)COC1=C(C=CC(=C1)C(C)C)C)C | C24H28N2O2
reactant | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidine | ClC1=NC(=NC(=C1COC1=C(C=CC(=C1)C(C)C)C)C)C1=C(C=CC=C1C)C | C24H27ClN2O
